US06008243
A mixture of 2,5-dihydro-2,5-dimethoxy-3-phenylfuran (590 mg, 2.86 mmol) and 10% Rh/Al2O3 (110 mg) in EtOAc (10 mL) was stirred under H2 atmosphere for 24 hours. The catalyst was filtered onto Celite and rinsed with EtOAc. The filtrate was concentrated in vacuo to afford 583 mg (98%) of 2,5-dimethoxy-3-phenyl-tetrahydrofuran as a colorless oil which was typically used without further purification. 1H NMR: δ 7.40-7.18 (m, 5H), 5.30-4.80 (m, 2H), 3.70-3.40 (m, 6H), 2.78-2.43 (m, 1.2H), 2.34 (ddd, 0.75H, J=5.6, 12.7, 18.3 Hz), 2.17 dd, 0.1H), J=8.4, 12.8 Hz). Anal. Calcd for C12H16O3.0.2H2O: C, 68.03; H, 7.80. Found: C, 68.11; H, 7.60.

reactant | 2,5-dihydro-2,5-dimethoxy-3-phenylfuran | 2.86 mmol, 590 mg | COC1OC(C=C1C1=CC=CC=C1)OC | C12H14O3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Rh/Al2O3 | 110 mg | [Rh] | Rh
product | 2,5-dimethoxy-3-phenyl-tetrahydrofuran | 583 mg, 98% | COC1OC(CC1C1=CC=CC=C1)OC | C12H16O3
